US06235731B1
3) Synthesis of trans-1-benzyl-2,5-dimethylpiperazine dihydrochloride
To 9.76 g (32.06 mmol.) of trans-1-tert-butoxycarbonyl-2,5-dimethyl-4-benzyl piperazine was added, at room temperature, 10 ml (120 mmol.) of 12N hydrochloric acid. The mixture was stirred for one hour. The solvent was distilled off under reduced pressure. To the residue was added 2-propanol, which was further concentrated. To the concentrate was added diethyl ether. The resulting crystals were collected by filtration and washed with 2-propanol and diethyl ether to give the object compound as white crystals. The yield was 7.97 g (90%).

reactant | trans-1-tert-butoxycarbonyl-2,5-dimethyl-4-benzyl piperazine | 32.06 mmol, 9.76 g | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)CC1=CC=CC=C1)C | C18H28N2O2
reactant | hydrochloric acid | 120 mmol, 12N, 10 ml | Cl | ClH
product | trans-1-benzyl-2,5-dimethylpiperazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1[C@H](CN[C@@H](C1)C)C | InChI=1S/C13H20N2.2ClH/c1-11-9-15(12(2)8-14-11)10-13-6-4-3-5-7-13;;/h3-7,11-12,14H,8-10H2,1-2H3;2*1H/t11-,12+;;/m1../s1
